US07297707B2
N-(6-Amino-benzothiazol-2-yl)-2,4-dichloro-N-(3,4-dimethoxy-phenyl)-benzamide
A mixture of 2 g (3.97 mmol) 2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-(6-nitro-benzothiazol-2-yl)-benzamide in 25 ml DMF and 4 ml 1N HCl was treated with 2.24 g tin(II) chloride dihydrate and heated to 80° C. for 4 h. After cooling to room temperature 50 ml saturated NaHCO3 was added and the mixture was extracted with ethyl acetate. The organic phase is treated with decalit and filtered. The organic phase of the filtrate was washed with saturated NaCl, dried with MgSO4, filtered and evaporated to dryness. The residue was purified on reversed phase preparative HPLC eluting with an acetonitrile/water gradient to obtain 536 mg (29%) of the title compound as yellowish amorphous solid. MS (m/e): 474.0 (MH+, 100%).

reactant | 2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-(6-nitro-benzothiazol-2-yl)-benzamide | 3.97 mmol, 2 g | ClC1=C(C(=O)N(C=2SC3=C(N2)C=CC(=C3)[N+](=O)[O-])C3=CC(=C(C=C3)OC)OC)C=CC(=C1)Cl | C22H15Cl2N3O5S
reactant | tin(II) chloride dihydrate | 2.24 g | O.O.[Sn](Cl)Cl
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1N, 4 ml | Cl | ClH
product | N-(6-Amino-benzothiazol-2-yl)-2,4-dichloro-N-(3,4-dimethoxy-phenyl)-benzamide | 536 mg, 29% | NC1=CC2=C(N=C(S2)N(C(C2=C(C=C(C=C2)Cl)Cl)=O)C2=CC(=C(C=C2)OC)OC)C=C1 | C22H17Cl2N3O3S
